US05326498
A suspension of 140 g of methoxymethyl-triphenylphosphonium chloride in 400 ml of tert.-butyl methyl ether is treated with 45 g of potassium tert.-butylate within 5 minutes at 0° C. while gassing with nitrogen and the mixture is stirred for a further 10 minutes. Then, a solution of 41 g of 4-(isopropyloxy)-benzaldehyde in 100 ml of tert.-butyl methyl ether is added dropwise at 0° C. within 30 minutes. The reaction mixture is stirred at room temperature for a further 16 hours and then poured into 750 ml of 0.8N sodium hydrogen carbonate solution. The aqueous phase is separated and back-extracted with diethyl ether. The organic phase is washed neutral with water, dried over magnesium sulphate and concentrated. The residue is suspended in 800 ml of hexane. After cooling to 0° C. the triphenylphosphine oxide is filtered off and the tiltrate is concentrated. Chromatography of the residue on silica gel with hexane/ethyl acetate (vol. 9:1) gives 45 g of pure 1-methoxy-2-(4-[isopropoxy]phenyl)ethene.

reactant | methoxymethyl-triphenylphosphonium chloride | 140 g | [Cl-].COC[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1
reactant | 4-(isopropyloxy)-benzaldehyde | 41 g | C(C)(C)OC1=CC=C(C=O)C=C1 | C10H12O2
reactant | sodium hydrogen carbonate | 0.8N, 750 ml | C(O)([O-])=O.[Na+]
solvent | tert.-butyl methyl ether | 400 ml | COC(C)(C)C | C5H12O
solvent | tert.-butyl methyl ether | 100 ml | COC(C)(C)C | C5H12O
product | 1-methoxy-2-(4-[isopropoxy]phenyl)ethene | 45 g | COC=CC1=CC=C(C=C1)OC(C)C | C12H16O2
